US06300352B1
a) N-(3-bromo-phenyl)-2,2,2-trifluoro-N-methylacetamide
N-(3-Bromophenyl)-2,2,2-trifluoroacetamide (J. Chem. Soc., 1952, 4014) in tetrahydrofuran (3 ml) was added dropwise to sodium hydride (0.16 g) in tetrahydrofuran (5 ml). The reaction mixture was stirred for 30 minutes at room temperature. lodomethane (0.25 ml) was added dropwise to the reaction mixture and it was stirred overnight at room temperature. Water was added and the product extracted with ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica gel eluting with iso-hexane: dichloromethane (1: 1) to give the sub-title compound as an oil (0.385 g).

reactant | N-(3-Bromophenyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1)NC(C(F)(F)F)=O | C8H5BrF3NO
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | Water | O | H2O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(3-bromo-phenyl)-2,2,2-trifluoro-N-methylacetamide | 0.385 g | BrC=1C=C(C=CC1)N(C(C(F)(F)F)=O)C | C9H7BrF3NO
